US08193228B2
N-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}acetamide
Hydrogen chloride (4N, 2 mL) in dioxane was added to a solution of N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-ethyl}acetamide in methanol (4 mL) at ambient temperature. The solution was stirred at 50° C. for 2 hr. Concentration of the solution afforded the title compound as a white solid. 1H NMR (500 MHz, CD3OD) δ 8.95-8.92 (m, 1H), 8.45-8.39 (m, 1H), 8.33 (dd, J=4.5, 9.0 Hz, 1H), 7.97 (d, J=8.5 Hz, 2H), 7.67 (d, J=8.0 Hz, 2H), 7.18 (s, 1H), 5.49 (t, J=8.0 Hz, 1H), 3.56-3.48 (m, 3H), 2.52 (s, 2H), 1.96 (s, 3H), 1.25 (q, J=7.5, 15.0 Hz, 2H), 0.87 (t, J=7.5 Hz, 3H), 0.84 (s, 3H), 0.83 (s, 3H).

reactant | Hydrogen chloride | 4N, 2 mL | Cl | ClH
reactant | N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-ethyl}acetamide | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(C)=O)(CC)C | C43H43FN4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
product | N-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}acetamide | CC(CC=1N=C(NC1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(C)=O)(CC)C | C24H29FN4O
